US05747489
In analogy to Example 1, the reaction of 5-(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one ("B") with 4-nitrobenzyl chloride gives 3-(4-nitrobenzyl)-5-(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one, m.p. 155°.

reactant | 5-(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | COC=1C=C(C=CC1OC)C1=NNC(SC1)=O | C11H12N2O3S
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
product | 3-(4-nitrobenzyl)-5-(3,4-dimethoxyphenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | [N+](=O)([O-])C1=CC=C(CN2C(SCC(=N2)C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C18H17N3O5S
